US05571806
A mixture of 20.2 g (0.1 mole) of 2-chloro-5-nitrobenzoic acid and 8.4 ml thionyl chloride in 100 ml of dioxane was refluxed for 90 minutes. The solution was cooled to 50° C. and added to a suspension of 12.3 g (0.1 mole) of 2-amino-5-methyl phenol in 50 ml of water. After about half of the acid chloride was added, 8.2 g sodium acetate was added, then the rest of the acid chloride was added dropwise. The reaction mixture was stirred for 45 minutes at 50° C. Ice water was added to the mixture with stirring, and the resulting precipitate was filtered and washed with water. The filter cake was dissolved in 150 ml of water containing 4 g of NaOH and stirred for 1 hour at 85°-95° C., then cooled to room temperature. The cooled solution was acidified with HCl, filtered, and washed with water. The precipitate was dried to yield 11.3 g (42%) of 2-nitro-7-methyldibenz[b,f][1,4]oxazepin-11(10H)-one, mp 264°-266° C.

reactant | 2-chloro-5-nitrobenzoic acid | 0.1 mole, 20.2 g | ClC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | thionyl chloride | 8.4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-amino-5-methyl phenol | 0.1 mole, 12.3 g | NC1=C(C=C(C=C1)C)O | C7H9NO
reactant | sodium acetate | 8.2 g | C(C)(=O)[O-].[Na+]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | 2-nitro-7-methyldibenz[b,f][1,4]oxazepin-11(10H)-one | 11.3 g, 42% | [N+](=O)([O-])C=1C=CC2=C(C(NC3=C(O2)C=C(C=C3)C)=O)C1 | C14H10N2O4
